US06465017B1
Preparation of the Granulation Wetting Solution Containing Alendronic Acid and a Binder
85.5 g of Alendronic Acid Monohydrate was dissolved in 700 ml of an aqueous solution containing 36 g of Potassium Hydroxide.

reactant | Alendronic Acid Monohydrate | 85.5 g | C(CC(O)(P(=O)(O)O)P(=O)(O)O)CN.O
reactant | Potassium Hydroxide | 36 g | [OH-].[K+]
product | Alendronic Acid | C(CC(O)(P(=O)(O)O)P(=O)(O)O)CN | C4H13NO7P2
